US05114966
2-(RS)-(2-mercaptoethyl)-2,3-dihydro-5-hydroxy-4,6,7-trimethylbenzofurane
A solution of 5.1 g of 2-(RS)-(2-acetylthioethyl)-2,3-dihydro-5-hydroxy-4,6,7-trimethylbenzofurane in 90 ml of acetone is treated with 20 ml of a 25% NH3 solution under nitrogen and stirred for 16 hours. After acidification, the mixture is extracted with ethyl acetate, and the extracts are dried and evaporated. The obtained 4.3 g of a white solid is obtained that can be crystallized with benzene. m.p. 163°-165° C.; IR (KBr): 3351 (νOH), 1237 cm-1 (νAr--O--CH); 1H-NMR (DMSO-d6): δ5.1-4.4 (1H,m), 3.5 (1H, sb), 3.2-2.6 (4H,m), 2.1 (2H,m), 2.0 (6H,s), 1.95 (3H,s), 1.2 (1H,m).

reactant | 2-(RS)-(2-acetylthioethyl)-2,3-dihydro-5-hydroxy-4,6,7-trimethylbenzofurane | 5.1 g | C(C)(=O)SCCC1OC2=C(C1)C(=C(C(=C2C)C)O)C | C15H20O3S
reactant | NH3 | N | H3N
solvent | acetone | 90 ml | CC(=O)C | C3H6O
product | 2-(RS)-(2-mercaptoethyl)-2,3-dihydro-5-hydroxy-4,6,7-trimethylbenzofurane | 4.3 g | SCCC1OC2=C(C1)C(=C(C(=C2C)C)O)C | C13H18O2S
